US05658491
Preparation of 5-Octyl-2-[4-(4-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)butoxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 4-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy) 1-bromobutane (20.9 g, 38.5 mol; prepared from 1,4-dibromobutane and 2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethanol) with 5-octyl-2-(4-hydroxyphenyl)pyrimidine (10.0 g, 0.35 mol). The resulting product was further purified by recrystallization from ethanol and subsequent Kugelrohr distillation to provide a yield of 17.5 g (b.p. 195°-220° C. at 0.1 torr).

reactant | 4-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy) 1-bromobutane | 38.5 mol, 20.9 g | FC(OC(C(OC(C(OC(COCCCCBr)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C11H10BrF13O4
reactant | 5-octyl-2-(4-hydroxyphenyl)pyrimidine | 0.35 mol, 10.0 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
product | 5-Octyl-2-[4-(4-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)butoxy)phenyl]pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCOCC(F)(F)OC(C(OC(C(OC(F)(F)F)(F)F)(F)F)(F)F)(F)F | C29H33F13N2O5
